2127-12-05 06:13:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2127-12-4**] 07:52 PM
 SHEATH - START [**2127-12-4**] 07:56 PM
 CARDIAC CATH - At [**2127-12-4**] 08:08 PM
 NASAL SWAB - At [**2127-12-5**] 12:00 AM
   Admitted overnight
   No event overnight
   Allergies:
   Sulfa (Sulfonamides)
   Anaphylaxis;
   Shellfish
   Anaphylaxis;
   Iodine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Nitroprusside - 0.3 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-12-5**] 06:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**29**] AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.7
C (98
   HR: 69 (69 - 86) bpm
   BP: 193/69(112) {177/64(102) - 281/107(176)} mmHg
   RR: 17 (16 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 64.8 kg (admission): 64.8 kg
             Total In:
                                                                    512 mL
                                                                    328 mL
   PO:
                                                                    200 mL
             TF:
   IVF:
                                                                    312 mL
                                                                    328 mL
   Blood products:
   Total out:
                                                                  1,595 mL
                                                                    435 mL
   Urine:
                                                                    995 mL
                                                                    435 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,083 mL
                                                                   -107 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///23/
   Physical Examination
   GENERAL: elderly, pleasant F in NAD. Oriented x3. Mood, affect
   appropriate.
   NECK: Supple, with JVP of 8cm
   CARDIAC: RR, normal S1, S2 (softer than S1 at the apex). +III/VI late
   peaking systolic crescendo-decrescendo murmur heard throughout the
   precordium radiating to the carotics. no gallops or rubs.
   LUNGS: CTAB
   ABDOMEN: BS+, Soft, ND.  Mild tenderness to palpation at LUQ, no
   guarding, no rebound.
   EXTREMITIES: No c/c/e. No femoral bruits.  Arterial and venous sheath
   at right groin in place (not pulled)
   Peripheral Vascular: (Right radial pulse: 2+), (Left radial pulse: 2+),
   (Right DP pulse: 2+), (Left DP pulse: 2+)
   Skin:  No stasis dermatitis, ulcers, scars, or xanthomas.
   Neurologic: AOx3, neuro exam grossly normal
   Labs / Radiology
   186 K/uL
   9.8 g/dL
   180 mg/dL
   1.1 mg/dL
   23 mEq/L
   3.6 mEq/L
   27 mg/dL
   104 mEq/L
   138 mEq/L
   28.7 %
   4.3 K/uL
        [image002.jpg]
                             [**2127-12-4**]  08:37 PM
                             [**2127-12-5**]  04:29 AM
   WBC
   7.2
   4.3
   Hct
   30.9
   28.7
   Plt
   182
   186
   Cr
   0.9
   1.1
   Glucose
   191
   180
   Other labs:
   PT / PTT / INR:12.8/25.5/1.1,
   CK 31,
   ALT / AST:14/18, Alk Phos / T Bili:69/0.5, LDH:212 IU/L,
   Ca++:8.7 mg/dL, Mg++:1.8 mg/dL, PO4:3.4 mg/dL
   proBNP: 2787
   MICRO: none
   CXR from today: my read
no acute cardiopulmonary process
   Assessment and Plan
   Pt is a 75 yo F with CAD s/p 3V CABG and critical aortic stenosis.
   .
   # CORONARIES: Patient with known CAD s/p CABG. However, no evidence of
   ACS (negative troponins, no new ischemic EKG changes). Patient's chest
   pain likely demand ischemia in setting of critical AS and hypertensive
   emergency.
   - continue ASA 325 mg PO daily
   - start pravastatin today
   - continue short acting metoprolol 50 mg PO TID, can uptitrate today to
   75mg TID with goal HR 55-60
   - will start ACEI today while nitroprusside gtt is down-titrated and
   discontinued
   - treatment of hypertension (see below)
   .
   # Hypertension: Patient presented with hypertensive emergency with
   chest pain. Patient grossly hypertensive in the cath lab with arterial
   tracings showing systolics in the 330s. BP brought down by
   nitroprusside gtt overnight in the CCU to SBPs 200. Likely chronically
   hypertensive in setting of medication non-compliance due to financial
   issues. Outpt blood pressure checks have SBPs ranging from 110s-140s,
   but were in the left arm with known L subclavian steal phenomenon.
   Also, cuff pressure seems to underestimate the true BPs that are
   measured via A-line.  Patient
s BP was around 200 overnight on
   nitroprusside gtt.
   - transition nitroprusside gtt to metoprolol and ACEI today, goal sBP
   150 today.
   - has arterial sheath in place for A-line tracings
   - SW consult for med compliance
   .
   # Critical AS: Valve area 0.68 cm^2. Symptomatic with peak gradient of
   25 mm Hg. Has [**12-31**] symptoms for AS triad (angina, CHF).
   - f/u CSurg eval for AVR
   - avoid medications that could decrease preload, such as NTG
   .
   # PUMP: Patient with evidence of diastolic congestive heart failure (EF
   64% in [**1-/2127**]), with elevated PCWP.  Patient also with R sided PA and
   RA pressures on R heart cath, indicating evidence of pulmonary
   hypertension and right-sided heart failure, likely exacerbated in
   setting of L sided heart failure. Receive 40 mg IV lasix in cath lab
   with good urine output of -1 L.   BNP elevated at 2787, consistent with
   heart failure.
   - transition nitroprusside gtt to metoprolol and losartan today, as
   above
   - Pt appears euvolemic currently. Keep I/O even today
   - no nitroglycerin given critical AS
   - f/u Csurg recs on AVR
   - f/u on CXR and TTE today
   .
   # RHYTHM: Patient with history of SVT in 2/[**2125**]. Currently in sinus
   rhythm with prolonged PR and RBBB/left anterior fascicular block on
   EKG.
   - continue BB
   - telemetry
   .
   # Peripheral Vascular Disease: Patient with hx of PVD and TIAs. A-line
   [**Location (un) 308**] higher than blood pressure cuff, consistent with a diagnosis of
   PVD.
   - continue ASA
   - will start pravastatin today
   .
   # Carotid artery disease: Patient with history of TIA in [**6-/2125**]
   (significant R sided ICA stenosis).
   - may need carotid U/S here for pre-op eval
   .
   # Hyperlipidemia: Elevated LDL of 134, not at goal. HDL low at 11.
   Patient reportedly on Lipitor but discontinued due to patient concern
   about cirrhosis and possible liver damage.  Patient was put on zetia as
   a result.  Zetia is very expensive; given her economic situation, would
   change to pravastatin.
   - start pravastatin today
   .
   # Hyperglycemia: BS 191 on admission. Patient without history of
   diabetes.
   - RISS with FS qACHS
   - f/u HgA1c
   .
   # Autoimmune Hepatitis with cirrhosis (Child's Class A). Followed by GI
   at [**Hospital1 **]. LFT normal.
   - trend LFT
   .
   # Anemia: baseline hct 25.  Admission hct 30.9. Ferritin checked at OSH
   was 73.
   - trend Hct
   .
   # History of seizure: Patient was admitted for seizure in [**5-5**].  She
   has been on Keppra, but self-discontinued it because of depression. No
   further episodes since then. Will continue to monitor.
   ICU Care
   Nutrition: cardiac healthy low salt low fat diet.
   Glycemic Control:  RISS
   Lines:
   Arterial Line - [**2127-12-4**] 07:52 PM
   20 Gauge - [**2127-12-4**] 07:54 PM
   Sheath - [**2127-12-4**] 07:56 PM
   Prophylaxis:
   DVT: pneumoboots (pt refusing SQ heparin)
   Stress ulcer:  none
   VAP:  n/a
   Comments: Bowel regimen with colace and senna prn
   Communication:  Comments: [**Name (NI) 3080**] [**Name (NI) 11331**] (husband)
   [**Name (NI) 66**] status: Full code (confirmed with patient)
   Disposition: CCU for now

2127-12-06 07:47:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**12-5**]:
   - According to PCP, [**Name10 (NameIs) **] previously on statin & ACE, problems with
   compliance & minor side effects, but no major contraindications
   - Started on Pravastatin 20mg
   - Started on Captopril 6.25mg TID, raised to 25mg TID over the day
   - Nitroprusside stopped
   - HgbA1c 5.8%
   - [**Initials (NamePattern4) **] [**Last Name (NamePattern4) 458**]: Albumin, Type and Screen. Carotid ultrasound and bilateral LE
   vein mapping, Echo, Chest CT without contrast to evaluate Ascending
   Aorta size and calcification
   - TTE demonstrated EF>55%, aortic stenosis 0.05cm2 (estimate) and a
   greater degree of LV hypertrophy have progressed compared to prior
   - CXR demonstrate that lungs are w/out no pleural effusions or acute
   skeletal findings
   - seen by SW, attempting medication assistance
   - Will need Dental/Panorex consult in AM
   - Will need Hepatology consult with Dr. [**Last Name (STitle) 2233**] in AM to clear for
   surgery
   Allergies:
   Sulfa (Sulfonamides)
   Anaphylaxis;
   Shellfish
   Anaphylaxis;
   Iodine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: uncomfortable
   Eyes: No(t)  Blurry vision
   Cardiovascular: No(t) Chest pain, No(t) Palpitations
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea
   Genitourinary: No(t) Dysuria
   Neurologic: No(t) Numbness / tingling, No(t) Headache
   Flowsheet Data as of  [**2127-12-6**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**29**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.2
C (97.1
   HR: 69 (61 - 79) bpm
   BP: 200/63(111) {171/52(95) - 216/77(128)} mmHg
   RR: 21 (17 - 26) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 67 kg (admission): 64.8 kg
             Total In:
                                                                  1,521 mL
                                                                     77 mL
   PO:
                                                                    840 mL
             TF:
   IVF:
                                                                    681 mL
                                                                     77 mL
   Blood products:
   Total out:
                                                                  1,185 mL
                                                                    420 mL
   Urine:
                                                                  1,185 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    336 mL
                                                                   -344 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL, EOMI
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), Harsh,
   Crescendo, all fields of precordium/ worst at LUSB
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Diminished), (Right DP pulse: Present), (Left DP pulse: Present), The
   DP pulses are biphasic and easily extinguished with soft compression
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Right leg immobilized, Left Leg in SCD
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): AAOx3,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   184 K/uL
   9.9 g/dL
   108 mg/dL
   1.1 mg/dL
   24 mEq/L
   4.2 mEq/L
   38 mg/dL
   106 mEq/L
   137 mEq/L
   30.8 %
   9.4 K/uL
        [image002.jpg]
                             [**2127-12-4**]  08:37 PM
                             [**2127-12-5**]  04:29 AM
                             [**2127-12-6**]  03:56 AM
   WBC
   7.2
   4.3
   9.4
   Hct
   30.9
   28.7
   30.8
   Plt
   182
   186
   184
   Cr
   0.9
   1.1
   1.1
   Glucose
   191
   180
   108
   Other labs: PT / PTT / INR:12.5/26.2/1.1, CK / CKMB / Troponin-T:31//,
   ALT / AST:14/18, Alk Phos / T Bili:69/0.5, Albumin:4.2 g/dL, LDH:212
   IU/L, Ca++:8.7 mg/dL, Mg++:2.4 mg/dL, PO4:3.4 mg/dL
   TTE
   The left atrium is moderately dilated. There is severe symmetric left
   ventricular hypertrophy. The left ventricular cavity size is normal.
   Regional left ventricular wall motion is normal. Overall left
   ventricular systolic function is normal (LVEF>55%). Right ventricular
   chamber size and free wall motion are normal. Right ventricular chamber
   size is normal. The diameters of aorta at the sinus, ascending and arch
   levels are normal. There are three aortic valve leaflets. The aortic
   valve leaflets are severely thickened/deformed. There is critical
   aortic valve stenosis (valve area 0.5 cm2). Mild (1+) aortic
   regurgitation is seen. The mitral valve leaflets are moderately
   thickened. There is severe mitral annular calcification. Mild to
   moderate ([**11-29**]+) mitral regurgitation is seen. There is mild pulmonary
   artery systolic hypertension. There is no pericardial effusion.
   IMPRESSION: Severe calcific aortic stenosis. Symmetric left ventricular
   hypertrophy with normal global and regional biventricular systolic
   function. Mild aortic regurgitation. Mild to moderate mitral
   regurgitation. Mild pulmonary hypertension.
   Assessment and Plan
   Pt is a 75 yo F with CAD s/p 3V CABG and critical aortic stenosis.
   .
   # CORONARIES: Patient with known CAD s/p CABG. However, no evidence of
   ACS (negative troponins, no new ischemic EKG changes). Patient's chest
   pain likely demand ischemia in setting of critical AS and hypertensive
   emergency.
   - continue ASA 325 mg PO daily
   - start pravastatin today
   - continue short acting metoprolol 50 mg PO TID, can uptitrate today to
   75mg TID with goal HR 55-60
   - will start ACEI today while nitroprusside gtt is down-titrated and
   discontinued
   - treatment of hypertension (see below)
   .
   # Hypertension: Patient presented with hypertensive emergency with
   chest pain. Patient grossly hypertensive in the cath lab with arterial
   tracings showing systolics in the 330s. BP brought down by
   nitroprusside gtt overnight in the CCU to SBPs 200. Likely chronically
   hypertensive in setting of medication non-compliance due to financial
   issues. Outpt blood pressure checks have SBPs ranging from 110s-140s,
   but were in the left arm with known L subclavian steal phenomenon.
   Also, cuff pressure seems to underestimate the true BPs that are
   measured via A-line.  Patient
s BP was around 200 overnight on
   nitroprusside gtt.
   - transition nitroprusside gtt to metoprolol and ACEI today, goal sBP
   150 today.
   - has arterial sheath in place for A-line tracings
   - SW consult for med compliance
   .
   # Critical AS: Valve area 0.68 cm^2. Symptomatic with peak gradient of
   25 mm Hg. Has [**12-31**] symptoms for AS triad (angina, CHF).
   - f/u CSurg eval for AVR
   - avoid medications that could decrease preload, such as NTG
   .
   # PUMP: Patient with evidence of diastolic congestive heart failure (EF
   64% in [**1-/2127**]), with elevated PCWP.  Patient also with R sided PA and
   RA pressures on R heart cath, indicating evidence of pulmonary
   hypertension and right-sided heart failure, likely exacerbated in
   setting of L sided heart failure. Receive 40 mg IV lasix in cath lab
   with good urine output of -1 L.   BNP elevated at 2787, consistent with
   heart failure.
   - transition nitroprusside gtt to metoprolol and losartan today, as
   above
   - Pt appears euvolemic currently. Keep I/O even today
   - no nitroglycerin given critical AS
   - f/u Csurg recs on AVR
   - f/u on CXR and TTE today
   .
   # RHYTHM: Patient with history of SVT in 2/[**2125**]. Currently in sinus
   rhythm with prolonged PR and RBBB/left anterior fascicular block on
   EKG.
   - continue BB
   - telemetry
   .
   # Peripheral Vascular Disease: Patient with hx of PVD and TIAs. A-line
   [**Location (un) 308**] higher than blood pressure cuff, consistent with a diagnosis of
   PVD.
   - continue ASA
   - will start pravastatin today
   .
   # Carotid artery disease: Patient with history of TIA in [**6-/2125**]
   (significant R sided ICA stenosis).
   - may need carotid U/S here for pre-op eval
   .
   # Hyperlipidemia: Elevated LDL of 134, not at goal. HDL low at 11.
   Patient reportedly on Lipitor but discontinued due to patient concern
   about cirrhosis and possible liver damage.  Patient was put on zetia as
   a result.  Zetia is very expensive; given her economic situation, would
   change to pravastatin.
   - start pravastatin today
   .
   # Hyperglycemia: BS 191 on admission. Patient without history of
   diabetes.
   - RISS with FS qACHS
   - f/u HgA1c
   .
   # Autoimmune Hepatitis with cirrhosis (Child's Class A). Followed by GI
   at [**Hospital1 **]. LFT normal.
   - trend LFT
   .
   # Anemia: baseline hct 25.  Admission hct 30.9. Ferritin checked at OSH
   was 73.
   - trend Hct
   .
   # History of seizure: Patient was admitted for seizure in [**5-5**].  She
   has been on Keppra, but self-discontinued it because of depression. No
   further episodes since then. Will continue to monitor.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2127-12-4**] 07:52 PM
   20 Gauge - [**2127-12-4**] 07:54 PM
   Sheath - [**2127-12-4**] 07:56 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   Cardiology Teaching Physician Note
   [**Name Initial (PRE) **] have seen and examined the patient. I have reviewed the above note
   and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) **].
   I would add the following remarks:
   Medical Decision Making
   Will further lower blood pressure parenterally for sheath pull. Will
   image thorax per request of interventional cardiology and CT surgery.
   Increase dose of ACE.

2127-12-07 06:58:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2127-12-6**] 11:00 AM
 SHEATH - STOP [**2127-12-6**] 11:00 AM
   - increased captopril to 100 TID
   - used nipride to drop pressure while Aline sheeth is being pulled
   - pressure to 120's with 3 of Nipride, to 176 after decreased to 0.24,
   adjusting to goal fo 150
   - ordered dental consult and panorex
   - hepatology consult: good candidate for surgery from liver perspective
   - CTA: Contrast allergy to be managed with pre-treatment (prednisone,
   ranitidine, benadryl). CTA at 8am Sunday
   - Received Hydralazine 25 mg at 0100 for sBP > 190
   Allergies:
   Sulfa (Sulfonamides)
   Anaphylaxis;
   Shellfish
   Anaphylaxis;
   Iodine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-12-7**] 06:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**29**] AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.2
C (97.1
   HR: 62 (56 - 76) bpm
   BP: 205/67(103) {130/51(79) - 208/118(139)} mmHg
   RR: 18 (14 - 25) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 64.2 kg (admission): 64.8 kg
                  Total In:
                                                                    506 mL
                                                                    120 mL
   PO:
                                                                    240 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    266 mL
   Blood products:
   Total out:
                                                                  1,075 mL
                                                                    215 mL
   Urine:
                                                                  1,075 mL
                                                                    215 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -569 mL
                                                                    -95 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ///23/
   Physical Examination
   General: Well nourished, No acute distress
   Neck: supple with JVP 7cm
   Cardiovascular: normal S1, S2, regular rhythm, Harsh,
   Crescendo-decrescendo systolic murmur all fields of precordium/ worst
   at LUSB
   Respiratory: CTAB
   Abdominal: Soft, Non-tender, Bowel sounds present, Non-Distended
   Extremities: No LE edema
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Diminished), (Right DP pulse: Present), (Left DP pulse: Present), The
   DP pulses are biphasic and easily extinguished with soft compression
   Musculoskeletal: Right leg immobilized, Left Leg in SCD
   Skin:  Not assessed
   Neurologic: Attentive, AAOx3
   Labs / Radiology
   181 K/uL
   10.3 g/dL
   150 mg/dL
   1.1 mg/dL
   23 mEq/L
   5.0 mEq/L
   40 mg/dL
   104 mEq/L
   138 mEq/L
   30.9 %
   6.6 K/uL
        [image002.jpg]
                             [**2127-12-4**]  08:37 PM
                             [**2127-12-5**]  04:29 AM
                             [**2127-12-6**]  03:56 AM
                             [**2127-12-7**]  04:00 AM
   WBC
   7.2
   4.3
   9.4
   6.6
   Hct
   30.9
   28.7
   30.8
   30.9
   Plt
   182
   186
   184
   181
   Cr
   0.9
   1.1
   1.1
   1.1
   Glucose
   191
   180
   108
   150
   Other labs:
   PT / PTT / INR:12.7/25.5/1.1,
   Ca++:9.1 mg/dL, Mg++:2.4 mg/dL, PO4:5.6 mg/dL
   Assessment and Plan
   Pt is a 75 yo F with CAD s/p 3V CABG and critical aortic stenosis.
   .
   # Hypertension: Patient presented with hypertensive emergency with
   chest pain. Patient grossly hypertensive in the cath lab with arterial
   tracings showing systolics in the 330s. BP brought down by
   nitroprusside gtt overnight in the CCU to SBPs 200. Likely chronically
   hypertensive in setting of medication non-compliance due to financial
   issues. Outpt blood pressure checks have SBPs ranging from 110s-140s,
   but were in the left arm with known L subclavian steal phenomenon.
   Also, cuff pressure seems to underestimate the true BPs that are
   measured via A-line.  Patient
s BP improved but still not at goal of
   150-160.
   - continue short acting metoprolol 50 mg PO TID, can uptitrate today to
   75mg TID with goal HR 55-60
   - continue captopril 100mg TID
   - may need to add another [**Doctor Last Name **] for BP control for goal sBP 150-160
   .
   # Critical AS: Valve area 0.68 cm^2. Symptomatic with peak gradient of
   25 mm Hg. Has [**12-31**] symptoms for AS triad (angina, CHF).  Pt is getting
   pre-op studies for planned AVR.
   - ordered dental consult and panorex
   - per hepatology consult, pt is a good candidate for surgery from liver
   perspective
   - pt will get CTA today.  Pt with Contrast allergy to be managed with
   pre-treatment (prednisone, ranitidine, benadryl). CTA at 8am today
   - avoid medications that could decrease preload, such as NTG
   .
   # CORONARIES: Patient with known CAD s/p CABG. However, no evidence of
   ACS (negative troponins, no new ischemic EKG changes). Patient's chest
   pain likely demand ischemia in setting of critical AS and hypertensive
   emergency.
   - continue ASA and pravastatin
   - continue short acting metoprolol 50 mg PO TID, can uptitrate today to
   75mg TID with goal HR 55-60
   - continue captopril 100mg TID
   - may need to add another [**Doctor Last Name **] for BP control
   .
   # PUMP: Patient with evidence of diastolic congestive heart failure (EF
   64% in [**1-/2127**]), with elevated PCWP.  Patient also with R sided PA and
   RA pressures on R heart cath, indicating evidence of pulmonary
   hypertension and right-sided heart failure, likely exacerbated in
   setting of L sided heart failure.   BNP elevated at 2787, consistent
   with heart failure.
   - manage BP as above
   - Pt appears euvolemic currently. Keep I/O even today
   - no nitroglycerin given critical AS
   - awaiting AVR surgery
   .
   # RHYTHM: Patient with history of SVT in 2/[**2125**]. Currently in sinus
   rhythm with prolonged PR and RBBB/left anterior fascicular block on
   EKG.  Currently HR around 60.
   - continue BB
   - telemetry
   .
   # Peripheral Vascular Disease: Patient with hx of PVD and TIAs. A-line
   [**Location (un) 308**] higher than blood pressure cuff, consistent with a diagnosis of
   PVD.
   - continue ASA and pravastatin
   .
   # Carotid artery disease: Patient with history of TIA in [**6-/2125**]
   (significant R sided ICA stenosis). Carotid US from [**2125-1-9**] showed
   60-69% stenosis of the right internal carotid artery. Less than 40%
   stenosis of the left internal carotid artery. Reversed flow in the left
   vertebral artery, which may correspond to subclavian steal phenomenon.
   - pt may live at BP around 200, and if BP drop lower pt may experience
   TIA and dizziness.  Need to monitor for sx.
   .
   # Hyperlipidemia: Elevated LDL of 134, not at goal. HDL low at 11.
   Patient reportedly on Lipitor but discontinued due to patient concern
   about cirrhosis and possible liver damage.  Patient was put on zetia as
   a result.  Zetia is very expensive; given her economic situation, zetia
   changed to pravastatin.
   - continue pravastatin
   .
   # Hyperglycemia: Patient without history of diabetes.  HgbA1c 5.8.
   - RISS with FS qACHS
   .
   # Autoimmune Hepatitis with cirrhosis (Child's Class A). Followed by GI
   at [**Hospital1 **]. LFT normal.
   - trend LFT
   - per hepatology, pt is a good candidate for AVR from liver stand
   point.
   .
   # Anemia: baseline hct 25.  Admission hct 30.9. Ferritin checked at OSH
   was 73. Hct stable during this admission.
   - trend Hct
   .
   # History of seizure: Patient was admitted for seizure in [**5-5**].  She
   has been on Keppra, but self-discontinued it because of depression. No
   further episodes since then. Will continue to monitor.
   ICU Care
   Nutrition: regular cardiac-healthy diet
   Glycemic Control:  RISS
   Lines:
   20 Gauge - [**2127-12-4**] 07:54 PM
   Prophylaxis:
   DVT: pneumoboots (pt refused sc heparin)
   Stress ulcer: none
   VAP:  n/a
   Comments:
   Communication:  Comments: husband
   [**Name (NI) 66**] status: Full code
   Disposition: will stay in CCU for BP optimization
   Cardiology Teaching Physician Note
   [**Name Initial (PRE) **] have seen and examined the patient. I have reviewed the above note
   and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) **].
   I would add the following remarks:

2127-12-08 07:06:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - CTA, prelim read: Extensive atherosclerotic disease with ectasia of
   the ascending aorta
   - Metoprolol increased from 50mg TID to 75mg TID, kept Captopril at
   100mg TID
   - SBP in the 160s.  Patient was asymptomatic all day.
   Allergies:
   Sulfa (Sulfonamides)
   Anaphylaxis;
   Shellfish
   Anaphylaxis;
   Iodine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-12-8**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**29**] AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36
C (96.8
   HR: 68 (58 - 83) bpm
   BP: 209/63(101) {142/32(51) - 225/110(128)} mmHg
   RR: 18 (11 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68 kg (admission): 64.8 kg
                  Total In:
                                                                    930 mL
                  PO:
                                                                    930 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,130 mL
                                                                    265 mL
   Urine:
                                                                  1,130 mL
                                                                    265 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -200 mL
                                                                   -265 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished woman, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, AT, oropharynx clear
   Cardiovascular: (S1: Normal), (S2: Normal), IV/VI high-pitched & late
   peaking systolic murmur loudest at RUSB radiating to carotids
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), Clear to auscultation
   bilaterally
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   216 K/uL
   10.0 g/dL
   111 mg/dL
   1.2 mg/dL
   25 mEq/L
   4.8 mEq/L
   47 mg/dL
   105 mEq/L
   139 mEq/L
   30.9 %
   11.0 K/uL
        [image002.jpg]
                             [**2127-12-4**]  08:37 PM
                             [**2127-12-5**]  04:29 AM
                             [**2127-12-6**]  03:56 AM
                             [**2127-12-7**]  04:00 AM
                             [**2127-12-8**]  04:06 AM
   WBC
   7.2
   4.3
   9.4
   6.6
   11.0
   Hct
   30.9
   28.7
   30.8
   30.9
   30.9
   Plt
   182
   186
   184
   181
   216
   Cr
   0.9
   1.1
   1.1
   1.1
   1.2
   Glucose
   191
   180
   108
   150
   111
   Other labs: PT / PTT / INR:12.6/25.9/1.1, CK / CKMB / Troponin-T:31//,
   ALT / AST:14/18, Alk Phos / T Bili:69/0.5, Albumin:4.2 g/dL, LDH:212
   IU/L, Ca++:9.0 mg/dL, Mg++:2.6 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   75 yo F with CAD s/p 3V CABG and critical aortic stenosis awaiting AVR
   later this week.
   .
   # Hypertension: Patient presented with hypertensive emergency & chest
   pain. Patient grossly hypertensive in the cath lab with arterial
   tracings showing systolics in the 330s. BP brought down by
   nitroprusside gtt overnight in the CCU to SBPs 200. Likely chronically
   hypertensive in setting of medication non-compliance due to financial
   issues. Outpt blood pressure checks have SBPs ranging from 110s-140s,
   but were in the left arm with known L subclavian steal phenomenon.
   Also, cuff pressure seems to underestimate the true BPs that are
   measured via A-line.  Patient
s BP improved to sbp
s in 160
s yesterday
   with increased Metoprolol 75mg TID & Captopril 100mg TID.
   - Continue Metoprolol Tartrate 75 mg PO TID (goal HR 55-60)
   - Continue Captopril 100mg TID (goal sbp
s 150-170
   .
   # Critical AS: Valve area 0.68 cm^2. Symptomatic with peak gradient of
   25 mm Hg. Has [**12-31**] symptoms for AS triad (angina, CHF).  Pt is getting
   pre-op studies for planned AVR.  Cleared by hepatology for AVR. CTA
   preliminary read demonstrated extensive atherosclerotic disease with
   ectasia of the ascending aorta.
   - Panorex scheduled for today, will then need dental re-consult
   - F/U final CTA read.
   - Cr elevation after dye-load yesterday. F/U Urine electrolytes &
   conservative fluid management PRN.
   - Avoid medications that decrease preload
   .
   # CORONARIES: Patient with known CAD s/p CABG, but patient's chest pain
   on admission likely demand ischemia in setting of critical AS and
   hypertensive emergency as pain resolved with improved bp
s & patient
   with negative troponins, no new ischemic EKG changes.
   - continue ASA and Pravastatin
   - continue Metoprolol 75 mg PO TID
   - continue Captopril 100mg TID
   .
   # PUMP: Patient with evidence of diastolic congestive heart failure (EF
   64% in [**1-/2127**]), with elevated PCWP.  Patient also with R sided PA and
   RA pressures on R heart cath, indicating evidence of pulmonary
   hypertension and right-sided heart failure, likely exacerbated in
   setting of L sided heart failure.   BNP elevated at 2787, consistent
   with heart failure.
   - manage BP as above
   - No nitroglycerin given critical AS
   .
   # RHYTHM: Patient with history of SVT in 2/[**2125**]. Currently in sinus
   rhythm with prolonged PR and RBBB/left anterior fascicular block on
   EKG.  Currently HR around 60.
   - continue Metoprolol Tartrate 75mg PO TID
   - Telemetry
   .
   # Peripheral Vascular Disease: Patient with hx of PVD and TIAs. A-line
   [**Location (un) 308**] higher than blood pressure cuff, consistent with a diagnosis of
   PVD.
   - continue ASA and Pravastatin
   .
   # Carotid artery disease: Patient with history of TIA in [**6-/2125**]
   (significant R sided ICA stenosis). Carotid US from [**2125-1-9**] showed
   60-69% stenosis of the right internal carotid artery. Less than 40%
   stenosis of the left internal carotid artery. Reversed flow in the left
   vertebral artery, which may correspond to subclavian steal phenomenon.
   - If BP drop lower than sbp
s of 150
s-170
s, pt may experience TIA and
   dizziness.  Will monitor for sx.
   .
   # Hyperlipidemia: Elevated LDL of 134, not at goal. HDL low at 11.
   Patient reportedly on Lipitor but discontinued due to patient concern
   about cirrhosis and possible liver damage.  Patient was prescribed
   Zetia, but given cost, changed to Pravastatin.
   - continue Pravastatin
   .
   # Hyperglycemia: Patient without history of diabetes.  HgbA1c 5.8.
   - RISS with FS qACHS
   .
   # Autoimmune Hepatitis with cirrhosis (Child's Class A). Followed by GI
   at [**Hospital1 **]. LFT normal.
   - Trend LFT
   - Per hepatology, pt is a good candidate for AVR.
   .
   # Anemia: baseline hct 25.  Admission hct 30.9. Ferritin checked at OSH
   was 73. Hct stable since admission.
   - Trend Hct
   .
   # History of seizure: Patient was admitted for seizure in [**5-5**].  She
   has been on Keppra, but self-discontinued it because of depression. No
   further episodes since then. Will continue to monitor.
   ICU Care
   Nutrition: Low sodium/Cardiac/Diabetic/2L fluid restriction
   Glycemic Control:
   Lines:
   20 Gauge - [**2127-12-7**] 10:00 AM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer:  none
   VAP:  N/A
   Communication:  Patient & husband, [**Name (NI) 3080**]
   [**Name (NI) 66**] status: Full code
   Disposition: pending cardiac surgery later this week
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   [**Name Initial (PRE) **] have seen and examined the patient. I have reviewed the above note
   and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 11358**].
   I would add the following remarks:
   Medical Decision Making
   Will target BP of 150 mm/Hg. Surgery Wed or Friday.
   ------ Protected Section Addendum Entered By:[**Name (NI) 149**] [**Last Name (NamePattern1) **], MD
   on:[**2127-12-8**] 10:18 ------